US07906517B2
Benzyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamate (1.28 g) is dissolved in toluene (15 ml), and thereto are added tris(dibenzylideneacetone)dipalladium (159 mg), 2-(di-tert-butylphosphino)biphenyl (208 mg), sodium tert-butoxide (250 mg) and morpholine (230 μl) and the mixture is stirred under nitrogen atmosphere at room temperature overnight. To the reaction solution are added tris(dibenzylideneacetone)dipalladium (159 mg), 2-(di-tert-butylphosphino)biphenyl (208 mg) and sodium tert-butoxide (250 mg) and the mixture is stirred for 3 hours and a half. To the reaction solution are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give benzyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamate (724 mg). MS (m/z): 742 [M+H]+

reactant | Benzyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamate | 1.28 g | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C=CC(=C2)C(F)(F)F)N(C(OCC2=CC=CC=C2)=O)CC)C=C(C1)C(F)(F)F)(F)F | C31H24BrF9N4O2
reactant | 2-(di-tert-butylphosphino)biphenyl | 208 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 250 mg | CC(C)([O-])C.[Na+]
reactant | morpholine | 230 μl | N1CCOCC1 | C4H9NO
reactant | 2-(di-tert-butylphosphino)biphenyl | 208 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 250 mg | CC(C)([O-])C.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 159 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium | 159 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamate | 724 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(C(OCC2=CC=CC=C2)=O)CC)C=C(C1)C(F)(F)F)(F)F | C35H32F9N5O3
